US08420632B2
2.5 g (7.9 mmol) of methyl (S)-3-tert-butoxycarbonylamino-2-(4-ethylpiperazin-1-yl)propanoate are placed in 20 ml of methanol and 10 ml of isopropanolic hydrochloric acid having a concentration of 5-6N. The reaction medium is heated at 40° C. for 3 h and then evaporated to dryness. The residue is taken up in 50 ml of ethanol, stirred for 1 h at ambient temperature and then filtered. 1.4 g (54%) of methyl (S)-3-amino-2-(4-ethylpiperazin-1-yl)propanoate trihydrochloride are obtained in the form of a beige solid.

reactant | methyl (S)-3-tert-butoxycarbonylamino-2-(4-ethylpiperazin-1-yl)propanoate | 7.9 mmol, 2.5 g | C(C)(C)(C)OC(=O)NC[C@@H](C(=O)OC)N1CCN(CC1)CC | C15H29N3O4
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | methyl (S)-3-amino-2-(4-ethylpiperazin-1-yl)propanoate trihydrochloride | 1.4 g, 54% | Cl.Cl.Cl.NC[C@@H](C(=O)OC)N1CCN(CC1)CC | InChI=1S/C10H21N3O2.3ClH/c1-3-12-4-6-13(7-5-12)9(8-11)10(14)15-2;;;/h9H,3-8,11H2,1-2H3;3*1H/t9-;;;/m0.../s1
